US04929637
Step B: Preparation of 4-(1-Hydroxyethyl)-5-methylsulfinYlthiophene-2-sulfonamide
To a stirred solution of 4-[1-(methoxyethoxymethoxy)ethyl]-5-methylsulfonylthiophene-sulfonamide (6.58 g, 0.0186 mol) in methanol (25 ml) was added dropwise over a 10 minute period a cold solution of 50% (by volume) sulfuric acid. The solution was stirred for an additional 20 minutes at room temperature. The reaction solution was basified with NaHCO3 with cooling and was concentrated to dryness in vacuo at 40° C. bath temperature. The solid residue was extracted with hot ethyl acetate and with 20% methanol/ethyl acetate. Concentration of the extracts in vacuo gave 4.0 g of solid which was purified by chromatography on silica gel using 5% methanol in methylene chloride. There was obtained 3.0 g (60%) of product, m.p. 172-185° C.

reactant | 4-[1-(methoxyethoxymethoxy)ethyl]-5-methylsulfonylthiophene-sulfonamide | 0.0186 mol, 6.58 g | COCCOCOC(C)C=1C=C(SC1S(=O)(=O)C)S(=O)(=O)N | C11H19NO7S3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 4-(1-Hydroxyethyl)-5-methylsulfinYlthiophene-2-sulfonamide | 4.0 g | OC(C)C=1C=C(SC1S(=O)C)S(=O)(=O)N | C7H11NO4S3
